US08067408B2
1,1-Dimethylethyl {[3-bromo-5-(methyloxy)phenyl]methyl}carbamate
To a solution of {[3-bromo-5-(methyloxy)phenyl]methyl}amine (1.3 g, 6.0 mmol) in CH2Cl2 (15 mL), a solution of NaOH (264.7 mg, 6.6 mmol) in H2O (6 mL) was added, and then the solution of Boc2O (1.44 g, 6.6 mmol) in CH2Cl2 (20 mL) was added dropwise. The reaction mixture was stirred overnight at 3 h. The aqueous layer was extracted with CH2Cl2 (10 mL), then the combined organic phase was washed with brine (10 mL×2) and dried over Na2SO4. The product 1,1-dimethylethyl {[3-bromo-5-(methyloxy)phenyl]methyl}carbamate (1.4 g) was purified by flash column chromatography (PE:EA=10:1). Yield: 74%.

reactant | {[3-bromo-5-(methyloxy)phenyl]methyl}amine | 6.0 mmol, 1.3 g | BrC=1C=C(C=C(C1)OC)CN | C8H10BrNO
reactant | NaOH | 6.6 mmol, 264.7 mg | [OH-].[Na+]
reactant | Boc2O | 6.6 mmol, 1.44 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 6 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl {[3-bromo-5-(methyloxy)phenyl]methyl}carbamate | Yield: 74% | BrC=1C=C(C=C(C1)OC)CNC(OC(C)(C)C)=O | C13H18BrNO3
